US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (Compound 149)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 84%). 1H NMR (300 MHz, CDCl3): δ 3.13-3.16 (m, 4H), 3.66-3.78 (m, 4H), 3.88 (s, 3H), 3.90 (s, 3H), 4.12 (s, 3H), 6.87-7.14 (m, 7H), 7.76 (d, J=5.1 Hz, 1H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 84% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C22H25N5O4
